US08580762B2
benzyl (3-((((3aR,4R,6R,6aR)-6-(6-amino-9H-purin-9-yl)-2,2-dimethyltetrahydrofuro[3,4-d][1,3]dioxol-4-yl)methyl)(methyl)amino)cyclobutyl)carbamate
To a solution of 9-((3aR,4R,6R,6aR)-2,2-dimethyl-6-((methylamino)methyl)tetrahydrofuro[3,4-d][1,3]dioxol-4-yl)-9H-purin-6-amine (190 mg, 0.59 mmol) and benzyl (3-oxocyclobutyl)carbamate (240 mg, 1.37 mmol) in MeOH (5 mL) was added Ti[OCH(CH3)2]4 (216 mg, 0.59 mmol). The mixture was stirred at rt for 1 h. Then NaCNBH3 (95 mg, 1.52 mmol) was added, the reaction was stirred at rt overnight. The reaction was filtered and evaporated, the residue was purified by prep-TLC (DCM:MeOH=20:1) to obtain the desired compound (90 mg, yield 29%).

reactant | 9-((3aR,4R,6R,6aR)-2,2-dimethyl-6-((methylamino)methyl)tetrahydrofuro[3,4-d][1,3]dioxol-4-yl)-9H-purin-6-amine | 0.59 mmol, 190 mg | CC1(O[C@@H]2[C@H](O1)[C@H](O[C@H]2N2C1=NC=NC(=C1N=C2)N)CNC)C | C14H20N6O3
reactant | benzyl (3-oxocyclobutyl)carbamate | 1.37 mmol, 240 mg | O=C1CC(C1)NC(OCC1=CC=CC=C1)=O | C12H13NO3
reactant | NaCNBH3 | 1.52 mmol, 95 mg | [BH3-]C#N.[Na+]
solvent | MeOH | 5 mL | CO | CH4O
product | benzyl (3-((((3aR,4R,6R,6aR)-6-(6-amino-9H-purin-9-yl)-2,2-dimethyltetrahydrofuro[3,4-d][1,3]dioxol-4-yl)methyl)(methyl)amino)cyclobutyl)carbamate | 90 mg, yield 29% | NC1=C2N=CN(C2=NC=N1)[C@@H]1O[C@@H]([C@@H]2[C@H]1OC(O2)(C)C)CN(C2CC(C2)NC(OCC2=CC=CC=C2)=O)C | C26H33N7O5
